US04595521
92.8 g of diethyl 2-butyrylsuccinate and 23.5 g of boric acid were heated to 150° C. in a round flask with distillation head piece, whereby ethanol distilled off. The mixture was subsequently heated to 175° C. and stirred at this temperature for 4 hours (evolution of carbon dioxide). After completion of the reaction, the mixture was cooled to room temperature, taken up in 500 ml of hexane and washed with 150 ml of 5% (wt./vol.) sodium hydrogen carbonate solution and 100 ml of water. The aqueous phases were back-extracted with 50 ml of hexane. The combined organic phases were dried over sodium sulphate and freed from solvent on a rotary evaporator. Distillation of the resulting crude product in a high vacuum over a Vigreux column gave in the main run 58.6 g (89.6%) of ethyl 4-oxoheptanoate as a colourless liquid; b.p. 50°-56° C./0.2 Torr.

reactant | diethyl 2-butyrylsuccinate | 92.8 g | C(CCC)(=O)C(C(=O)OCC)CC(=O)OCC | C12H20O5
reactant | boric acid | 23.5 g | B(O)(O)O | BH3O3
reactant | ethanol | C(C)O | C2H6O
solvent | hexane | 500 ml | CCCCCC | C6H14
product | ethyl 4-oxoheptanoate | 58.6 g, 89.6% | O=C(CCC(=O)OCC)CCC | C9H16O3
